US05965539
To a mixture of 70 mL of acetone and 85 mL of water was added 2-bromo-4-nitrotoluene 6.84 g (30 mmol), phenylboronic acid 3.84 g (31.5 mmol), potassium carbonate 10.35 g (75 mmol) and palladium acetate 336 mg (1.5 mmol). The mixture was refluxed for 10 hr and then extracted with ether and dilute hydrochloric acid. After evaporating solvents, the solid residue was recrystallized from methanol to give 5.64 g of 4-nitro-2-phenyltoluene (88% yield). 1H NMR (CDCl3) δ 8.09-8.11 (m, 2H), 7.40-7.49 (m, 4H), 7.30-7.33 (m, 2H), 2.37 (s, 3H).

reactant | acetone | 70 mL | CC(=O)C | C3H6O
reactant | 2-bromo-4-nitrotoluene | 30 mmol, 6.84 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | phenylboronic acid | 31.5 mmol, 3.84 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 75 mmol, 10.35 g | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium acetate | 1.5 mmol, 336 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 85 mL | O | H2O
product | 4-nitro-2-phenyltoluene | 5.64 g, 88% yield | [N+](=O)([O-])C1=CC(=C(C=C1)C)C1=CC=CC=C1 | C13H11NO2
